US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, the reaction of 2,4-dichloro-5-fluoropyrimidine with 3-chloro-4-hydroxy-5-methylaniline gave N2,N4-bis-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 20.55 min.; purity: 99%; MS (m/e): 410 (MH+); 1H NMR (DMSO-d6): δ 9.23 (1H, s), 9.07 (1H, s), 8.99 (1H, s), 8.66 (1H, s), 8.13 (1H, d, J=3.6 Hz), 7.59 (2H, t, J=3.1 Hz), 7.50 (1H, d, J=2.3 Hz), 7.34 (1H, d, J=2.3 Hz), 2.27 (3H, s), 2.18 (3H, s).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-chloro-4-hydroxy-5-methylaniline | ClC=1C=C(N)C=C(C1O)C | C7H8ClNO
product | N2,N4-bis-(3-chloro-4-hydroxy-5-methylphenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=C(C1O)C)NC1=NC=C(C(=N1)NC1=CC(=C(C(=C1)C)O)Cl)F | C18H15Cl2FN4O2
